US05196434
3-METHYLBENZOTHIAZOLINONE
In a 2-liter flask, 75.6 g (0.5 mol) of benzothiazolinone are dissolved in a solution containing 20 g of sodium hydroxide (0.5 mol) in approximately 800 cm3 of water. The solution is filtered. With magnetic stirring, 47.5 cm3 of methylsulfate (0.5 mol) are introduced dropwise with a dropping funnel. After the addition, the mixture is left stirring for 20 hours at room temperature. The medium is alkalinized with a slight excess of sodium hydroxide and left stirring for one hour. The precipitate obtained is drained and washed with water until the filtrate is neutral. The product is dried. It is recrystallized in propanol.

reactant | benzothiazolinone | 0.5 mol, 75.6 g | S1(C=NC2=C1C=CC=C2)=O | C7H5NOS
reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | methylsulfate | 0.5 mol, 47.5 cm3 | COS(=O)(=O)[O-]
solvent | water | approximately 800 cm3 | O | H2O
product | 3-METHYLBENZOTHIAZOLINONE | CN1CS(C2=C1C=CC=C2)=O | C8H9NOS
